US05614633
A mixture of 0.15 g of trans-6-pentafluoroethyl-2,2-bisfluoromethyl-3,4-dihydro-4-(1,2-dihydro-2-oxo-1-pyridyl)-2H-1-benzopyran-3-ol, 0.07 g of methanesulfonyl chloride, 0.08 g of triethylamine and 10 ml of tetrahydrofuran was stirred at room temperature for 8 hours and the solvent was distilled off. Water was added thereto and the mixture was extracted with methylene chloride. After the organic layer was washed with water and dried, the solvent was distilled off. The resultant residue was dissolved in 4 ml of tetrahydrofuran and 0.06 g of sodium hydrate (60%) was added thereto with stirring under ice-cooling. The mixture was then stirred at room temperature for 66 hours. Ice water was added thereto and the mixture was extracted with methylene chloride. After the organic layer was washed with water and dried, the solvent was distilled off. The resultant residue was purified using silica gel column chromatography (developing solution, MeOH:CH2Cl2 =1:99) to obtain 0.09 g of 6-pentafluoroethyl-2,2-bisfluoromethyl-4-(1,2-dihydro-2-oxo-1-pyridyl)-2H-1-benzopyran represented by the following formula having a melting point of 137°-138° C.

reactant | trans-6-pentafluoroethyl-2,2-bisfluoromethyl-3,4-dihydro-4-(1,2-dihydro-2-oxo-1-pyridyl)-2H-1-benzopyran-3-ol | 0.15 g | FC(C(F)(F)F)(C=1C=CC2=C([C@H]([C@@H](C(O2)(CF)CF)O)N2C(C=CC=C2)=O)C1)F | C18H14F7NO3
reactant | methanesulfonyl chloride | 0.07 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 0.08 g | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 6-pentafluoroethyl-2,2-bisfluoromethyl-4-(1,2-dihydro-2-oxo-1-pyridyl)-2H-1-benzopyran | 0.09 g | FC(C(F)(F)F)(C=1C=CC2=C(C(=CC(O2)(CF)CF)N2C(C=CC=C2)=O)C1)F | C18H12F7NO2
